US04992474
[3-[(7-Bromoheptyl)oxy]propyl]benzene
(2.05 g) from 1,7-dibromoheptane (3.83 g) and 3-phenylpropanol (1.08 ml).

reactant | 1,7-dibromoheptane | 3.83 g | BrCCCCCCCBr | C7H14Br2
reactant | 3-phenylpropanol | 1.08 ml | C1(=CC=CC=C1)CCCO | C9H12O
product | [3-[(7-Bromoheptyl)oxy]propyl]benzene | BrCCCCCCCOCCCC1=CC=CC=C1 | C16H25BrO
